US05650533
2-Nitro-4-pentafluoroethyltoluene (56.6 g) and pyridine (170 ml) were added to a stirred solution of sodium hydroxide (10.0 g) in water (500 ml). The mixture was stirred and heated at reflux and potassium permanganate (174 g) was added portionwise. The mixture was stirred and heated at reflux for 1 hour until the purple colouration had disappeared. After cooling, the mixture was filtered and the solid was washed with water (3×100 ml) and ether (300 ml). The layers were separated and the aqueous layer was washed with ether and acidified to pH I. It was extracted with ether (3×300ml) and the combined extracts were washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness to give 2-nitro-4-pentafluoroethylbenzoic acid (51.6 g) as a white solid mp 124°-135° C.

reactant | 2-Nitro-4-pentafluoroethyltoluene | 56.6 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(C(F)(F)F)(F)F)C | C9H6F5NO2
reactant | pyridine | 170 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | 10.0 g | [OH-].[Na+]
reactant | potassium permanganate | 174 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 500 ml | O | H2O
product | 2-nitro-4-pentafluoroethylbenzoic acid | 51.6 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)C(C(F)(F)F)(F)F | C9H4F5NO4
